US05679746
4-(trans-4-(trans-4-(4,4-difluorobutyl) cyclohexyl)-4-silacyclohexyl)-1-fluorobenzene
The above compound was obtained in the same manner as Example 6, using 4-(4, 4-difluorobutyl)cyclohexylbromide and 4-(4-chloro-4-silacyclohexyl)-1-fluorobenzene instead of 4-(4-fluorobutyl)cyclohexylbromide and 4-(4-chloro-4-silacyclohexyl)-l, 2-difluorobenzene, respectively.

reactant | 4-(4, 4-difluorobutyl)cyclohexylbromide | FC(CCCC1CCC(CC1)Br)F | C10H17BrF2
reactant | 4-(4-chloro-4-silacyclohexyl)-1-fluorobenzene | Cl[SiH]1CCC(CC1)C1=CC=C(C=C1)F | C11H14ClFSi
reactant | 4-(4-chloro-4-silacyclohexyl)-l, 2-difluorobenzene | Cl[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C11H13ClF2Si
product | 4-(trans-4-(trans-4-(4,4-difluorobutyl) cyclohexyl)-4-silacyclohexyl)-1-fluorobenzene | FC(CCC[C@@H]1CC[C@H](CC1)[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)F)F | C21H31F3Si
